US07012075B2
To methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate (688 mg, 1.04 mmol) in THF (20 mL) was added activated zinc powder (686 mg, 10.4 mmol) and an aqueous solution of KH2PO4 (1.0 M, 5.2 mL, 5.2 mmol) dropwise. After ½ hour additional aliquots of activated zinc powder (686 mg, 10.4 mmol) and aqueous KH2PO4 solution were added (1.0 M, 5.2 mL, 5.2 mmol) and the reaction mixture was stirred for 1 hour. The zinc powder was filtered off, rinsed with Et2O and water and the product extracted with ether (2×), dried over Na2SO4, concentrated iii vacuo and purified by flash chromatography over silica gel (EtOAc/Hex, 3/7) to afford methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinate.

reactant | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)-N-[(2,2,2-trichloroethoxy)carbonyl]leucinate | 1.04 mmol, 688 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NOC1N([C@@H](CC(C)C)C(=O)OC)C(=O)OCC(Cl)(Cl)Cl)C | C29H39Cl3N4O7
reactant | KH2PO4 | 5.2 mmol, 1.0 M, 5.2 mL | OP(=O)(O)[O-].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
catalyst | zinc | 10.4 mmol, 686 mg | [Zn] | Zn
catalyst | zinc | 10.4 mmol, 686 mg | [Zn] | Zn
product | methyl N-(4-{4-[4-(tert-butoxycarbonyl)piperazin-1-yl]phenyl}-3-methylisoxazol-5-yl)leucinate | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C=1C(=NOC1N[C@@H](CC(C)C)C(=O)OC)C | C26H38N4O5
